US09260425B2
A mixture of 3-(6-fluoropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (50.0 mg, 0.13 mmol) and (R)-3-(Boc-amino)pyrrolidine (246.1 mg, 1.32 mmol) in DMSO (2.6 mL) in a sealed tube was stirred at 95° C. under N2 for 3 days. The cooled reaction mixture was diluted into 1:1 ether-ethyl acetate. The organic layer was washed with 10% aqueous citric acid until pH ˜4 to 5, water and brine, dried over Na2SO4, filtered, and evaporated in vacuo. The crude product was purified using flash chromatography (Si-PPC gradient elution, solvent: 0-20% methanol in ethyl acetate) to give tert-butyl (3R)-1-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)pyrrolidin-3-ylcarbamate as a foam (61.4 mg, 85.3%). 1H NMR (400 MHz, CDCl3) δ 1H NMR (400 MHz, CDCl3) δ 9.11 (s, 1H), 8.79 (s, 1H), 8.05 (broad s, 1H), 7.97 (s, 1H), 7.62-7.50 (m, 2H), 6.37 (d, J=7.9 Hz, 1H), 5.86 (dd, J=8.5, 2.2 Hz, 1H), 4.79 (s, 1H), 4.44 (s, 1H), 4.07-3.95 (m, 4H), 3.92-3.84 (m, 1H), 3.84-3.69 (m, 3H), 3.63-3.51 (m, 1H), 2.64-2.49 (m, 1H), 2.37 (td, J=13.6, 7.7 Hz, 1H), 2.17 (d, J=9.8 Hz, 2H), 2.11-2.01 (m, 1H), 1.89-1.68 (m, 3H), 1.46 (s, 9H). LC/MS: m/z 545.3 [M+1].

reactant | 3-(6-fluoropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.13 mmol, 50.0 mg | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C20H19FN6O
reactant | (R)-3-(Boc-amino)pyrrolidine | 1.32 mmol, 246.1 mg | C(=O)(OC(C)(C)C)N[C@H]1CNCC1 | C9H18N2O2
solvent | DMSO | 2.6 mL | CS(=O)C | C2H6OS
product | tert-butyl (3R)-1-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 61.4 mg, 85.3% | CN1N=CC(=C1)C=1C=C2C(=CN1)N(N=C2C2=CC=CC(=N2)N2C[C@@H](CC2)NC(OC(C)(C)C)=O)C2OCCCC2 | C29H36N8O3
